US06323346B1
A small amount of a molecular sieve was added to a mixture of 0.5 mmol of n-butyraldehyde, 0.5 mmol of butylamine, 1 mmol of ethyl diazoacetate, 0.025 mmol of di-l-chlorobis(1,5-cyclooctadiene)diiridium(I) [Ir2Cl2(cod)2], and 0.5 ml of tetrahydrofuran. The resulting mixture was stirred at −5° C. in an argon atmosphere for 3 hours to yield 1-butyl-2-ethoxycarbonyl-3-propylaziridine in a yield of 74%.

reactant | n-butyraldehyde | 0.5 mmol | C(CCC)=O | C4H8O
reactant | butylamine | 0.5 mmol | C(CCC)N | C4H11N
reactant | ethyl diazoacetate | 1 mmol | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 1-butyl-2-ethoxycarbonyl-3-propylaziridine | yield of 74% | C(CCC)N1C(C1CCC)C(=O)OCC | C12H23NO2
